US04384123
(S)-4-Amino-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline
A mixture of (S)-4-azido-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline (0.8 g) acetic acid (about 20 ml) and 10% palladium on charcoal is hydrogenated on a Parr apparatus for 3 hours. The reaction mixture is filtered through Celite to remove the catalyst and the solvent is stripped leaving an oil. The oil is diluted with water and washed several times with ethyl acetate. The aqueous phase is lyophilized yielding 0.48 g of crude product as a solid. Crude product (400 mg) is run on a column of ion-exchange resin AG50X8 (about 30 ml), eluting first with water and then with a pyridine-acetic acid buffer (pH 6.5). The fractions containing the desired material are combined and evaporated leaving a glass, which is dissolved in water and lyophilized yielding 300 mg of the title compound having an optical rotation [α]D =-24.8° (c=10 mg/ml, methanol).

reactant | (S)-4-azido-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline | about 20 ml, 0.8 g | N(=[N+]=[N-])C1C[C@H](N(C1)C(CP(=O)(CCCCC1=CC=CC=C1)O)=O)C(=O)O | C17H23N4O5P
catalyst | palladium on charcoal | [Pd] | Pd
solvent | water | O | H2O
product | (S)-4-Amino-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline | 300 mg | NC1C[C@H](N(C1)C(CP(=O)(CCCCC1=CC=CC=C1)O)=O)C(=O)O | C17H25N2O5P
